US04377531
Preparation of 2-(4-methoxyphenyl)-3-methylbutyronitrile
To a stirred suspension of sodium hydroxide pels (320.0 g; 8.0 mol) in isopropyl bromide (492.0 g; 4.0 mol) is added 4-methoxyphenylacetonitrile (294.3 g; 2.0 mol) over a 30-minute period at a temperature of 50°-55° C. Following this addition the reaction mixture is stirred at reflux (68°-74° C.) for 4 hours. It is then cooled to 50° C. and water (498 ml) is added. The mixture is subsequently stirred for 15 minutes with cooling. The aqueous and organic phases are then separated and the excess isopropyl bromide is removed from the organic phase by distillation. The resulting product (367.88 g of 2-(4-methoxyphenyl)-3-methylbutyronitrile) is 96.9% pure and corresponds to a real yield of 99.1%. The results of this experiment are included in Table Ia under No. 7.

reactant | isopropyl bromide | 4.0 mol, 492.0 g | C(C)(C)Br | C3H7Br
reactant | 4-methoxyphenylacetonitrile | 2.0 mol, 294.3 g | COC1=CC=C(C=C1)CC#N | C9H9NO
solvent | water | 498 ml | O | H2O
product | 2-(4-methoxyphenyl)-3-methylbutyronitrile | yield of 99.1% | COC1=CC=C(C=C1)C(C#N)C(C)C | C12H15NO
